US05639768
A stirred solution of 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N-(1-methylethyl)-N-phenylbenzamide (250 mg, 0.55 mmol) in 2.5 mL of N,N-dimethylformamide is treated with 60% sodium hydride (22 mg, 0.55 mmol), and ethyl bromoacetate (67 μL, 0.60 mmol) and heated at 70° C. for 2.5 hours. The reaction is partitioned between ethyl acetate and water, dried over sodium sulfate and concentrated in vacuo to afford a yellow foam. This material is purified by chromatography on silica gel (30 g) with 50-70% ethyl acetate/hexane as the eluent to afford ethyl 5-[5-(4-cyanophenoxy)pentyloxy]-2-[N-(1-methylethyl)-N-phenylaminocarbonyl]phenoxyacetate as colorless foam.

reactant | 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-N-(1-methylethyl)-N-phenylbenzamide | 0.55 mmol, 250 mg | C(#N)C1=CC=C(OCCCCCOC2=CC(=C(C(=O)N(C3=CC=CC=C3)C(C)C)C=C2)O)C=C1 | C28H30N2O4
reactant | sodium hydride | 0.55 mmol, 22 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.60 mmol, 67 μL | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | ethyl 5-[5-(4-cyanophenoxy)pentyloxy]-2-[N-(1-methylethyl)-N-phenylaminocarbonyl]phenoxyacetate | C(#N)C1=CC=C(OCCCCCOC=2C=CC(=C(OCC(=O)OCC)C2)C(=O)N(C2=CC=CC=C2)C(C)C)C=C1 | C32H36N2O6
